### PR TITLE
[Merged by Bors] - feat(Algebra/GroupWithZero/WithZero): `toAdd_unzero_eq_log` and simplify proofs

### PR DESCRIPTION
**Pull request by fbarroero**
This PR adds the lemma
```lean
lemma toAdd_unzero_eq_log {x : Mᵐ⁰} (hx : x ≠ 0) :
    (unzero hx).toAdd = log x
```
and uses it to simplify some proofs involving `log`, `exp`, and rank-one discrete valuations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by fbarroero** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/86cc4afe949c1aa4bbc317db68552b7a5dfcb8f3?reference=b44f89d15d463ede557bdf673707a8610210becf) for 86cc4afe949c1aa4bbc317db68552b7a5dfcb8f3 against b44f89d15d463ede557bdf673707a8610210becf are in. No significant results found. @fbarroero

- ✅ `build//instructions`: **-117.4M** (**-0.00%**)

No significant changes detected.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 1]
```diff
@@ -422,6 +421,10 @@ lemma log_pow : ∀ (x : Mᵐ⁰) (n : ℕ), log (x ^ n) = n • log x
   | 0, n + 1 => by simp
   | (x : Multiplicative M), n => rfl
 
+lemma toAdd_unzero_eq_log {x : Mᵐ⁰} (hx : x ≠ 0) : (unzero hx).toAdd = log x := by
+  lift x to Multiplicative M using hx
+  rfl
```
Comment (felixpernegger) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
  simp [log]
```
no defeq abuse

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 2]
```diff
@@ -527,23 +527,25 @@ variable {G : Type*} [Preorder G] {a b : G}
...
-@[simp] lemma log_le_log (hx : x ≠ 0) (hy : y ≠ 0) : log x ≤ log y ↔ x ≤ y := by
-  lift x to Multiplicative G using hx; lift y to Multiplicative G using hy; simp [log]
-
-@[simp] lemma log_lt_log (hx : x ≠ 0) (hy : y ≠ 0) : log x < log y ↔ x < y := by
-  lift x to Multiplicative G using hx; lift y to Multiplicative G using hy; simp [log]
-
 lemma log_le_iff_le_exp (hx : x ≠ 0) : log x ≤ a ↔ x ≤ exp a := by
-  lift x to Multiplicative G using hx; simpa [log, exp] using .rfl
+  rw [← toAdd_unzero_eq_log hx]
+  exact (le_ofAdd_iff hx).symm
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
  rw [← toAdd_unzero_eq_log hx, ← le_ofAdd_iff hx, exp]
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 3]
```diff
@@ -527,23 +527,25 @@ variable {G : Type*} [Preorder G] {a b : G}
...
 
 lemma log_lt_iff_lt_exp (hx : x ≠ 0) : log x < a ↔ x < exp a := by
-  lift x to Multiplicative G using hx; simpa [log, exp] using .rfl
+  rw [← toAdd_unzero_eq_log hx]
+  exact (lt_ofAdd_iff hx).symm
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
  rw [← toAdd_unzero_eq_log hx, ← lt_ofAdd_iff hx, exp]
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 4]
```diff
@@ -527,23 +527,25 @@ variable {G : Type*} [Preorder G] {a b : G}
...
+
+@[simp] lemma log_le_log (hx : x ≠ 0) (hy : y ≠ 0) : log x ≤ log y ↔ x ≤ y := by
+  rw [log_le_iff_le_exp hx, exp_log hy]
+
+@[simp] lemma log_lt_log (hx : x ≠ 0) (hy : y ≠ 0) : log x < log y ↔ x < y := by
+  rw [log_lt_iff_lt_exp hx, exp_log hy]
 
 lemma le_log_iff_exp_le (hx : x ≠ 0) : a ≤ log x ↔ exp a ≤ x := by
-  lift x to Multiplicative G using hx; simpa [log, exp] using .rfl
+  simpa using log_le_log exp_ne_zero hx
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
  rw [← log_le_log exp_ne_zero hx, log_exp]
```
more transparent

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 5]
```diff
@@ -527,23 +527,25 @@ variable {G : Type*} [Preorder G] {a b : G}
...
 
 lemma lt_log_iff_exp_lt (hx : x ≠ 0) : a < log x ↔ exp a < x := by
-  lift x to Multiplicative G using hx; simpa [log, exp] using .rfl
+  simpa using log_lt_log exp_ne_zero hx
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
  rw [← log_lt_log exp_ne_zero hx, log_exp]
```
more transparent

File: Mathlib/RingTheory/Valuation/Discrete/RankOne.lean [hunk 6]
```diff
@@ -88,22 +85,12 @@ lemma valueGroup₀_equiv_withZeroMulInt_restrict_apply_of_surjective (hsurj : F
...
-    have hg : hv.generator = Units.mk0 (WithZero.exp (-1 : ℤ) : ℤᵐ⁰) (by simp) :=
-      generator_eq_exp_neg_one_of_surjective hsurj
-    rw [hg]
-    conv_lhs => rw [MonoidWithZeroHom.coe_ofClass, ← coe_unzero h0]
-    simp only [coe_unzero, Int.reduceNeg, exp_neg, zpow_neg, Units.val_inv_eq_inv_val,
-      Units.val_zpow_eq_zpow_val, Units.val_mk0, inv_zpow', ← exp_zsmul, Int.zsmul_eq_mul, mul_one,
-      inv_inv]
-    simp [WithZero.exp]
+    simp [generator', generator_eq_exp_neg_one_of_surjective hsurj, toAdd_unzero_eq_log h0,
+      exp_log h0]
```
Comment (felixpernegger) [inline Mathlib/RingTheory/Valuation/Discrete/RankOne.lean:93]: great golf :)

**Comment by felixpernegger** [comment]
Do you find the copilot reviews ever helpful btw?

**Comment by fbarroero** [comment]
> Do you find the copilot reviews ever helpful btw?

not really. sometimes they catch typos...

**Review by felixpernegger — APPROVED** [review]

**Comment by riccardobrasca** [comment]
Can you write a slightly less verbose commit message? It's longer than the PR...

**Comment by fbarroero** [comment]
> Can you write a slightly less verbose commit message? It's longer than the PR...

Lol, done!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
